US07777047B2
4-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 4-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.54 g), Lawesson's reagent (0.59 g) and tetrahydrofuran (20 ml) was stirred at 60° C. for 3 hr. The reaction mixture was concentrated, toluene was added, and the resulting crystals were filtrated, washed with toluene, and dried to give the title compound (0.51 g, yield 87%) as yellow crystals. melting point >248° C. (decomposition).

reactant | 4-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.54 g | ClC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C14H12ClN3O3S2
reactant | Lawesson's reagent | 0.59 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.51 g, yield 87% | ClC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(N)=S | C14H12ClN3O2S3
